US06350907B1
A solution of tert-butyl (3R,5E)-3-({[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)-6-[3-methyl-(4-phenyl)phenyl]hex-5-enoate (1.91 gm, 3.2 mmol) in ethanol (80 mL) was hydrogenated over 10% palladium on charcoal (120 mg) at 3 bar and 20° C. for 16 h. The mixture was filtered through Arbocel filter aid and concentrated under reduced pressure to give tert-butyl (3R)-3-({[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)-6-[3-methyl-(4-phenyl)phenyl]hexanoate (2.07 gm, 108%), as a colourless foam, which was taken onto the next step without purification (see Example 1).

reactant | tert-butyl (3R,5E)-3-({[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)-6-[3-methyl-(4-phenyl)phenyl]hex-5-enoate | 3.2 mmol, 1.91 gm | CC([C@@H](C(=O)N[C@H](C)C1=CC=CC=C1)NC(=O)[C@@H](CC(=O)OC(C)(C)C)C\C=C\C1=CC(=C(C=C1)C1=CC=CC=C1)C)(C)C | C38H48N2O4
solvent | ethanol | 80 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 120 mg | [Pd] | Pd
product | tert-butyl (3R)-3-({[(1S)-2,2-dimethyl-1-({[(1R)-1-phenylethyl]amino}carbonyl)propyl]amino}carbonyl)-6-[3-methyl-(4-phenyl)phenyl]hexanoate | 2.07 gm, 108% | CC([C@@H](C(=O)N[C@H](C)C1=CC=CC=C1)NC(=O)[C@@H](CC(=O)OC(C)(C)C)CCCC1=CC(=C(C=C1)C1=CC=CC=C1)C)(C)C | C38H50N2O4
